US07407968B2
3-Nitro-4-[[(tetrahydro-2H-pyran-4-yl)methyl]amino]-N,N-bis(2,2,2-trifluoroethyl)benzamide
Following the general procedure for Intermediate 2 using 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide (75 mg, 0.215 mmol) and 4-aminomethyltetrahydropyran (27 mg, 0.236 mmol) in 3 mL of EtOH containing Et3N (0.045 mL, 0.323 mmol). The product was purified by flash chromatography on silica gel using 2:1/hexanes:EtOAc as eluent. Yield: 87 mg (91%); 1H NMR (CDCl3) 1.47 (m, 2H), 1.75 (m, 2H), 1.98 (m, 1H), 3.27 (t, J=5.47 Hz, 2H), 3.43 (m, 2H), 4.03 (m, 2H), 4.24 (q, J=8.33 Hz, 6H), 6.93 (d, J=8.98 Hz, 1H), 7.54 (d, J=8.98 Hz, 1H), 8.30 (s, 1H), 8.40 (brs, 1H); MS (ESI) 444.31 (MH+).

reactant | 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | 0.215 mmol, 75 mg | FC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C11H7F7N2O3
reactant | 4-aminomethyltetrahydropyran | 0.236 mmol, 27 mg | NCC1CCOCC1 | C6H13NO
reactant | Et3N | 0.323 mmol, 0.045 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 3 mL | CCO | C2H6O
product | 3-Nitro-4-[[(tetrahydro-2H-pyran-4-yl)methyl]amino]-N,N-bis(2,2,2-trifluoroethyl)benzamide | [N+](=O)([O-])C=1C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=CC1NCC1CCOCC1 | C17H19F6N3O4
